US06610688B2
Synthesis of 5-[4-(3-Chloro-4-fluoro-phenylamino)-7-methyl-6-oxo-6,7-dihydro-pyrrolo[2,3-D]pyrimidin-5-ylidenemethyl]-4-methyl-1H-pyrrole-2-carboxylic Acid (2-morpholin-4-yl-ethyl)-amide (Formula 32)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-7-methyl-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (244 mg, 0.83 mmol), 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide (1.2 equiv.) and piperidine (1 drop) in ethanol and DMF (2 mL) was stirred at 90° C. for 2 hours. The reaction was diluted with water and the precipitate was collected by vacuum filtration, washed with water, ethyl acetate and hexane and dried to give 138.5 mg (31%) of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 13.39 (br s, 1H, NH), 9.29 (br s, 1H), 8.38 (m, 2H), 7.72 (m 1H), 7.39 (s, 1H, H-vinyl), 7.34 (m, 2H), 6.81 (s, 1H), 3.56 (m, 4H, 2×CH2), 3.35 (m, 2H, CH2), 3.31 (s, 3H, CH3), 2.45 (m, 2H, CH2), 2.41 (m, 4H, 2×CH2), 2.20 (s, 3H, CH3). MS 540 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-7-methyl-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.83 mmol, 244 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)N(C(C2)=O)C | C13H10ClFN4O
reactant | 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid (2-morpholin-4-yl-ethyl)-amide | 1.2 equiv. | N1(CCOCC1)CCNC(=O)C=1NC(=C(C1)C)C=O | C13H19N3O3
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-[4-(3-Chloro-4-fluoro-phenylamino)-7-methyl-6-oxo-6,7-dihydro-pyrrolo[2,3-D]pyrimidin-5-ylidenemethyl]-4-methyl-1H-pyrrole-2-carboxylic Acid (2-morpholin-4-yl-ethyl)-amide | 138.5 mg, 31% | N1(CCOCC1)CCNC(=O)C=1NC(=C(C1)C)C=C1C(N(C=2N=CN=C(C21)NC2=CC(=C(C=C2)F)Cl)C)=O | C26H27ClFN7O3
